US07968570B2
A mixture of 3-(2-bromophenyl)-propylamine (6.9 g, 30 mmol), 2-bromomethyl-benzoic acid methyl ester (6.42 g, 30 mmol), and K2CO3 (6.91 g, 50 mmol) in toluene (100 mL) was heated at reflux with stirring for 2 h. Workup and silica gel column chromatography using a gradient of hexanes to 50% ethyl acetate in hexanes afforded 2-[3-(2-bromophenyl)-propyl]-2,3-dihydroisoindol-1-one (5.7 g, 58%). GC/MS gave: m/z (rel.int.) 331 (M+, 3), 329 (M+, 3), 250 (42), 147 (82), 146 (100) 119 (27), and 91 (47). 1H NMR (300 MHz, CDCl3): δ 2.00 (dt, 2H), 2.80 (t, 2H), 3.74 (t, 2H), 4.40 (s, 2H), 7.04 (dt, 1H), 7.19-7.27 (m, 3H), 7.43-7.53 (m, 3H), 7.76 (dd, 1H). 13C NMR (300 MHz, CDCl3): δ 28.7, 33.7, 42.1, 50.0, 122.8, 123.8, 124.4, 127.7, 127.9, 128.1, 130.6, 131.3, 132.9, 133.1, 140.8, 141.3, 168.7.

reactant | 3-(2-bromophenyl)-propylamine | 30 mmol, 6.9 g | BrC1=C(C=CC=C1)CCCN | C9H12BrN
reactant | 2-bromomethyl-benzoic acid methyl ester | 30 mmol, 6.42 g | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
reactant | K2CO3 | 50 mmol, 6.91 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[3-(2-bromophenyl)-propyl]-2,3-dihydroisoindol-1-one | 5.7 g, 58% | BrC1=C(C=CC=C1)CCCN1C(C2=CC=CC=C2C1)=O | C17H16BrNO
